US09162971B2
(1-d) 3-Ethylbicyclo[3.2.0]hept-3-en-6-one
(2E)-4-Ethylhepta-2,6-dienoic acid (100.57 g) obtained by the method described above was dissolved in N,N-dimethylacetamide (255 mL) under a nitrogen atmosphere. To the solution, acetic anhydride (108 mL, 1.14 mol) and triethylamine (79 mL, 0.57 mol) were added. The reaction mixture was warmed and stirred at 115 to 117° C. for 5 hours. The reaction mixture was cooled to room temperature, and n-hexane (510 mL) and water (714 mL) were added thereto to separate an organic layer. The aqueous layer was subjected to two extractions with hexane (each with 255 mL), and all the organic layers were combined and then washed with a 5% aqueous sodium bicarbonate solution (102 mL) and water (102 mL) in this order. The obtained organic layer was concentrated under reduced pressure, and the residue was distilled (90-100° C., approximately 25 mmHg) to obtain the title compound (50.92 g, colorless oil substance) (overall yield from 1,1-bis(allyloxy)butane: 62%).

reactant | acetic anhydride | 1.14 mol, 108 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethylamine | 0.57 mol, 79 mL | C(C)N(CC)CC | C6H15N
reactant | n-hexane | 510 mL | CCCCCC | C6H14
reactant | water | 714 mL | O | H2O
solvent | N,N-dimethylacetamide | 255 mL | CN(C(C)=O)C | C4H9NO
product | 3-Ethylbicyclo[3.2.0]hept-3-en-6-one | 50.92 g, 62% | C(C)C=1CC2CC(C2C1)=O | C9H12O
